US07825148B2
1-Benzenesulfonyl-7-methoxy-1H-indole (Q)
To a solution of 7-methoxyindole (1 eq) in DMF cooled in an ice bath was added NaH (60% dispersion in oil, 1.2 eq). The reaction was stirred for 1 hr at room temperature then recooled in an ice bath. Benzenesulfonyl chloride (1.1 eq) was added then the reaction was stirred for 2 hrs at room temperature. Water/ethyl acetate were added and the ethyl acetate layer was washed repeatedly (3×) with water. The ethyl acetate layer was concentrated and evaporated to dryness.

reactant | 7-methoxyindole | 1 eq | COC=1C=CC=C2C=CNC12 | C9H9NO
reactant | NaH | 1.2 eq | [H-].[Na+]
reactant | Benzenesulfonyl chloride | 1.1 eq | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | Water ethyl acetate | O.C(C)(=O)OCC
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-Benzenesulfonyl-7-methoxy-1H-indole | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC=CC(=C12)OC | C15H13NO3S
